US06849367B2
1-methoxy-4-vinyl naphthalene 18.42 g (0.1 mol) and acetylene dicarboxylic acid dimethyl ester 28.42 g (0.2 mol) were dissolved in nitrobenzene, 200 ml, and they were reacted for 7 hours at the temperature of 130° C. After cooling, nitrobenzene was escaped in vapor under a reduced pressure condition, silica gel column chromatography (developing solvent n-hexane: an acetic acid ethyl=9:1) process was performed to residual elements, crude material, 23.08 g, was obtained. Further, objective phenanthrene compounds, 19.85 g (yield 61.2%) was obtained by recrystallizing from n-butanol. A melting point was 150.2 to 151.0° C. An infrared absorption spectrum of this phenanthrene compound is shown in FIG. 4.

reactant | 1-methoxy-4-vinyl naphthalene | 0.1 mol, 18.42 g | COC1=CC=C(C2=CC=CC=C12)C=C | C13H12O
reactant | acetylene dicarboxylic acid dimethyl ester | 0.2 mol, 28.42 g | COC(=O)C#CC(=O)OC | C6H6O4
reactant | n-hexane | CCCCCC | C6H14
reactant | acetic acid ethyl | CCOC(=O)C | C4H8O2
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | phenanthrene | yield 61.2% | C1=CC=CC=2C3=CC=CC=C3C=CC12 | C14H10
